US08008481B2
A mixture of 5-(5-benzyloxy-pyridin-3-yl)-3-(1H-pyrrol-2-yl)-1H-indazole (Preparation #16c, E and F (using 5-benzyloxy-3-bromopyridine), 0.015 g, 0.4 mmol) in MeOH (5 mL) and 10 wt. % Pd/C (3 mg) was shaken under an atmosphere of hydrogen (about 40 psi) for about 24 hours. The crude product was filtered and the solvent was removed under reduced pressure to yield 5-[3-(1H-pyrrol-2-yl)-1H-indazol-5-yl]-pyridin-3-ol (0.088 g, 80%); RP-HPLC (Table 1, Method e) Rt=1.78 min; m/z: (M+H)+ 277, (M−H)− 275.

reactant | 5-(5-benzyloxy-pyridin-3-yl)-3-(1H-pyrrol-2-yl)-1H-indazole | 0.4 mmol, 0.015 g | C(C1=CC=CC=C1)OC=1C=C(C=NC1)C=1C=C2C(=NNC2=CC1)C=1NC=CC1 | C23H18N4O
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd/C | 3 mg | [Pd] | Pd
product | 5-[3-(1H-pyrrol-2-yl)-1H-indazol-5-yl]-pyridin-3-ol | 0.088 g, 80% | N1C(=CC=C1)C1=NNC2=CC=C(C=C12)C=1C=C(C=NC1)O | C16H12N4O
